US08022062B2
Combine phenyl isocyanate (15 μL, 0.137 mmol) and 6-(3-amino-propylamino)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (48 mg, 0.137 mmol) in DCM and stir for 16 h. Concentrate, add DCM, filter and collect the solid to obtain 7-chloro-6-[3-(3-phenyl-ureido)-propylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (18 mg, 28%).

reactant | phenyl isocyanate | 0.137 mmol, 15 μL | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 6-(3-amino-propylamino)-7-chloro-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 0.137 mmol, 48 mg | NCCCNC1=C(C=CC=2CCN(CCC21)C(C(F)(F)F)=O)Cl | C15H19ClF3N3O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | 7-chloro-6-[3-(3-phenyl-ureido)-propylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 18 mg, 28% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCCCNC(=O)NC1=CC=CC=C1 | C22H24ClF3N4O2
